US07153859B2
8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline (the compound obtained in Example 1-(6)) (1.6 g) is dissolved in methylene chloride (10 ml), and thereto are added triethylamine (0.8 ml) and benzyloxyacetyl chloride (0.8 ml) under ice-cooling, and the mixture is stirred for 30 minutes. The reaction solution is washed with a saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography on silica gel (eluent; chloroform:ethyl acetate=9:1) to give 8,9-dimethoxy-2-benzyloxyacetyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline (1.1 g).

reactant | 8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline | COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCNC3)OC | C20H24N2O2
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | benzyloxyacetyl chloride | 0.8 ml | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 8,9-dimethoxy-2-benzyloxyacetyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline | 1.1 g | COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCNC3C(COCC3=CC=CC=C3)=O)OC | C29H32N2O4
